US08937071B2
To a mixture of 2-chloro-5-nitro-3-(trifluoromethyl)pyridine (500 mg, 2.207 mmol) in THF (10 mL) was added ethanol (0.155 mL, 2.65 mmol) and NaH (132 mg, 3.31 mmol). Then the mixture was stirred at 0° C. for 30 min, then warmed to rt and stirred for 16 h. The mixture was added to H2O and extracted with EA (2×50 mL) to give the organic layer. The combined organic extract was washed with brine, dried over Na2SO4 and concentrated to yield a brown oil of 2-ethoxy-5-nitro-3-(trifluoromethyl)pyridine (120 mg, 0.457 mmol, 20.7% yield): 1H NMR (400 MHz, CD3OD) δ 9.27 (d, J=2.5 Hz, 1H), 8.75 (d, J=2.5 Hz, 1H), 4.67 (m, 2H), 1.47 (t, J=7.0 Hz, 3H).

reactant | 2-chloro-5-nitro-3-(trifluoromethyl)pyridine | 2.207 mmol, 500 mg | ClC1=NC=C(C=C1C(F)(F)F)[N+](=O)[O-] | C6H2ClF3N2O2
reactant | ethanol | 2.65 mmol, 0.155 mL | C(C)O | C2H6O
reactant | NaH | 3.31 mmol, 132 mg | [H-].[Na+]
reactant | H2O | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-ethoxy-5-nitro-3-(trifluoromethyl)pyridine | 0.457 mmol, 120 mg, 20.7% yield | C(C)OC1=NC=C(C=C1C(F)(F)F)[N+](=O)[O-] | C8H7F3N2O3
